US08372842B2
tert-Butyl 4-(5-cyclopropyl-3-ethynyl-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (200 mg, 0.4 mmol) was placed in MeOH (2 mL). Pd/C (175 mg, 0.08 mmol) was then added, and the reaction was stirred at room temperature for 1 hour. The reaction was then filtered and concentrated to give tert-butyl 4-(5-cyclopropyl-3-ethyl-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (150 mg, 74% yield).

reactant | tert-Butyl 4-(5-cyclopropyl-3-ethynyl-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.4 mmol, 200 mg | C1(CC1)C=1C(=C2C(=NC1)N(N=C2C#C)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C28H33N5O3
solvent | MeOH | 2 mL | CO | CH4O
catalyst | Pd/C | 0.08 mmol, 175 mg | [Pd] | Pd
product | tert-butyl 4-(5-cyclopropyl-3-ethyl-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 150 mg, 74% yield | C1(CC1)C=1C(=C2C(=NC1)N(N=C2CC)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C28H37N5O3
